*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805AF-111
* Inductance = 0.12uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805AF-111_freq port1 port2 PARAMS: Cpar=0.12pF Ind=0.12uH
X1 port1 port2 Model1A PARAMS:
+ R1=60
+ R2=0.05
+ C= {Cpar}
+ K1=0.000095
+ K2=0.05
+ K3= {Ind}
+ K4=0.002
+ K5=0.000012
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1663.53954
.ends 0805AF-111_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805AF-681
* Inductance = 0.71uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805AF-681_freq port1 port2 PARAMS: Cpar=0.11pF Ind=0.71uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=0.3
+ C= {Cpar}
+ K1=0.000175
+ K2=0.45
+ K3= {Ind}
+ K4=0.014
+ K5=0.0000011
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10310.3464
.ends 0805AF-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805AF-102
* Inductance = 1.1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805AF-102_freq port1 port2 PARAMS: Cpar=0.15pF Ind=1.1uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.39
+ C= {Cpar}
+ K1=0.00035
+ K2=0.9
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000036
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15899.4132
.ends 0805AF-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805AF-122
* Inductance = 1.27uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805AF-122_freq port1 port2 PARAMS: Cpar=0.155pF Ind=1.27uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.53
+ C= {Cpar}
+ K1=0.000005
+ K2=1.05
+ K3= {Ind}
+ K4=0.018
+ K5=0.00000675
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17951.3646
.ends 0805AF-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805AF-152
* Inductance = 1.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805AF-152_freq port1 port2 PARAMS: Cpar=0.13pF Ind=1.6uH
X1 port1 port2 Model1A PARAMS:
+ R1=30
+ R2=0.74
+ C= {Cpar}
+ K1=0.00012
+ K2=1.2
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000034
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=21701.9784
.ends 0805AF-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805AF-182
* Inductance = 2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805AF-182_freq port1 port2 PARAMS: Cpar=0.135pF Ind=2uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=0.85
+ C= {Cpar}
+ K1=0.000005
+ K2=1.1
+ K3= {Ind}
+ K4=0.042
+ K5=0.0000149
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19403.6317
.ends 0805AF-182_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805AF-222
* Inductance = 2.4uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805AF-222_freq port1 port2 PARAMS: Cpar=1.05pF Ind=2.4uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.98
+ C= {Cpar}
+ K1=0.000005
+ K2=1.5
+ K3= {Ind}
+ K4=0.051
+ K5=0.0000077
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11834.6819
.ends 0805AF-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805AF-272
* Inductance = 3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805AF-272_freq port1 port2 PARAMS: Cpar=1.5pF Ind=3uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=1.16
+ C= {Cpar}
+ K1=0.0005
+ K2=1.6
+ K3= {Ind}
+ K4=0.084
+ K5=0.00000595
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11532.2488
.ends 0805AF-272_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805AF-332
* Inductance = 3.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805AF-332_freq port1 port2 PARAMS: Cpar=1.13pF Ind=3.6uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=1.1
+ C= {Cpar}
+ K1=0.0002
+ K2=2.1
+ K3= {Ind}
+ K4=0.084
+ K5=0.00000625
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14943.3647
.ends 0805AF-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805AF-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805AF-472_freq port1 port2 PARAMS: Cpar=1.8pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=1.5
+ C= {Cpar}
+ K1=0.000005
+ K2=2.9
+ K3= {Ind}
+ K4=0.07
+ K5=0.0000064
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17836.1244
.ends 0805AF-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805AF-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805AF-682_freq port1 port2 PARAMS: Cpar=2.4pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=20
+ R2=1.4
+ C= {Cpar}
+ K1=0.000005
+ K2=3
+ K3= {Ind}
+ K4=0.09
+ K5=0.00000197
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16716.2886
.ends 0805AF-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805AF-103
* Inductance = 10.1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805AF-103_freq port1 port2 PARAMS: Cpar=3.6pF Ind=10.1uH
X1 port1 port2 Model1A PARAMS:
+ R1=30
+ R2=2.2
+ C= {Cpar}
+ K1=0.000005
+ K2=3.5
+ K3= {Ind}
+ K4=0.13
+ K5=0.00000161
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15114.275
.ends 0805AF-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805AF-153
* Inductance = 14.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805AF-153_freq port1 port2 PARAMS: Cpar=3.9pF Ind=14.9uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=3.8
+ C= {Cpar}
+ K1=0.000005
+ K2=5.7
+ K3= {Ind}
+ K4=0.044
+ K5=0.0000049
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=22274.1287
.ends 0805AF-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805AF-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805AF-223_freq port1 port2 PARAMS: Cpar=1.9pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=6.7
+ C= {Cpar}
+ K1=0.0005
+ K2=11.4
+ K3= {Ind}
+ K4=0.59
+ K5=5.72E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=46924.2671
.ends 0805AF-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
